* C:\Users\Ossama El Boustani\Workspace\Reposititories\Structured_Electronic_Design\Assignment 2 - Design Study\Design Study 4\cir\CS_noise.asc
C1 N002 N001 {C_A}
XU1 N002 0 out NM18_noise ID={ID} IG={IG} W={W} L={L}
V1 N001 0 V value=0 dc=0 dcvar=0 noise=0
C2 N002 0 {C_F}
.lib SLiCAP.lib
.lib SLiCAP.lib
.backanno
.end
